US07109148B2
To a mixture of 0.71 g of N-[4-chloro-2-fluoro-5-{2-(methoxycarbonyl)methoxy-3-pyridyloxy}phenyl]trifluoroacetoacetamide and 2 ml of acetic acid was added sodium cyanate, and the mixture was stirred at 50° C. for 1 hour and then at 110° C. for 1.5 hours. After cooling, water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate solution, saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.30 g of 3-{2-chloro-4-fluoro-5-[2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyridin-1-yl]phenoxy}-2-(methoxycarbonyl)methoxypyridine.

reactant | N-[4-chloro-2-fluoro-5-{2-(methoxycarbonyl)methoxy-3-pyridyloxy}phenyl]trifluoroacetoacetamide | 0.71 g | ClC1=CC(=C(C=C1OC=1C(=NC=CC1)OCC(=O)OC)NC(CC(=O)C(F)(F)F)=O)F | C18H13ClF4N2O6
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanate | [O-]C#N.[Na+]
solvent | water | O | H2O
product | 3-{2-chloro-4-fluoro-5-[2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyridin-1-yl]phenoxy}-2-(methoxycarbonyl)methoxypyridine | 0.30 g | ClC1=C(OC=2C(=NC=CC2)OCC(=O)OC)C=C(C(=C1)F)N1C(CC(=CC1=O)C(F)(F)F)=O | C20H13ClF4N2O6
